### PR TITLE
feat: add `Bitvec.[add, sub, mul]_eq_xor` and `width_one_cases`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2086,6 +2108,12 @@ theorem ofInt_mul {n} (x y : Int) : BitVec.ofInt n (x * y) =
   apply eq_of_toInt_eq
   simp
 
+@[simp]
+theorem mul_eq_and (a b : BitVec 1) : a * b = a &&& b := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2112]:
```suggestion
theorem mul_eq_and (a b : BitVec 1) : a * b = a &&& b := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1910,6 +1920,12 @@ theorem shiftLeft_add_distrib {x y : BitVec w} {n : Nat} :
   case succ n ih =>
     simp [ih, toNat_eq, Nat.shiftLeft_eq, ← Nat.add_mul]
 
+@[simp]
+theorem add_eq_xor (a b : BitVec 1) : a + b = a ^^^ b := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1924]:
```suggestion
theorem add_eq_xor (a b : BitVec 1) : a + b = a ^^^ b := by
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:1924]: @hargoniX suggested that simp is likely not a good idea here as the rewrite may not always be more canonical. I agree, let's drop the `@[simp]` for now.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -463,6 +463,16 @@ theorem toInt_pos_iff {w : Nat} {x : BitVec w} :
     0 ≤ BitVec.toInt x ↔ 2 * x.toNat < 2 ^ w := by
   simp [toInt_eq_toNat_cond]; omega
 
+theorem width_one_cases (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
+  obtain ⟨a, ha⟩ := a
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:467]:
```suggestion
theorem eq_zero_or_eq_one {a : BitVec 1} : a = 0#1 ∨ a = 1#1 := by
  obtain ⟨a, ha⟩ := a
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -1910,6 +1920,12 @@ theorem shiftLeft_add_distrib {x y : BitVec w} {n : Nat} :
   case succ n ih =>
     simp [ih, toNat_eq, Nat.shiftLeft_eq, ← Nat.add_mul]
 
+@[simp]
+theorem add_eq_xor (a b : BitVec 1) : a + b = a ^^^ b := by
+  have ha : a = 0 ∨ a = 1 := width_one_cases _
+  have hb : b = 0 ∨ b = 1 := width_one_cases _
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1926]:
```suggestion
  have ha : a = 0 ∨ a = 1 := eq_zero_or_eq_one _
  have hb : b = 0 ∨ b = 1 := eq_zero_or_eq_one _
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2019,6 +2035,12 @@ theorem neg_ne_iff_ne_neg {x y : BitVec w} : -x ≠ y ↔ x ≠ -y := by
     subst h'
     simp at h
 
+@[simp]
+theorem sub_eq_xor (a b : BitVec 1) : a - b = a ^^^ b := by
+  have ha : a = 0 ∨ a = 1 := width_one_cases _
+  have hb : b = 0 ∨ b = 1 := width_one_cases _
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2041]:
```suggestion
  have ha : a = 0 ∨ a = 1 := eq_zero_or_eq_one _
  have hb : b = 0 ∨ b = 1 := eq_zero_or_eq_one _
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2086,6 +2108,12 @@ theorem ofInt_mul {n} (x y : Int) : BitVec.ofInt n (x * y) =
   apply eq_of_toInt_eq
   simp
 
+@[simp]
+theorem mul_eq_and (a b : BitVec 1) : a * b = a &&& b := by
+  have ha : a = 0 ∨ a = 1 := width_one_cases _
+  have hb : b = 0 ∨ b = 1 := width_one_cases _
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2114]:
```suggestion
  have ha : a = 0 ∨ a = 1 := eq_zero_or_eq_one _
  have hb : b = 0 ∨ b = 1 := eq_zero_or_eq_one _
```

**Review by tobiasgrosser — APPROVED** [review]
Otherwise, this LGTM.

**Comment by tobiasgrosser** [comment]
Cool. Thank you.
